US07414061B2
4-[1-(4-Fluoro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
To a mixture of 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) containing [Cu(OH).TMEDA]2Cl2 (23.2 mg, 0.05 mmol) in dry methanol (5 mL) was added 4-fluorophenylboronic acid (140 mg, 1.0 mmol) under an air atmosphere and the resulting mixture stirred at room temperature overnight. After this time, concentrated ammonia solution (2 mL) was added and then the resulting mixture was diluted with water (20 mL) and extracted with ethyl acetate. The organic extracts were then dried over sodium sulphate and evaporated. Purification by preparative HPLC on reversed phase eluting with an acetonitrile/water [0.1% aq NH3 (25%)] gradient afforded the title compound (34 mg, 21%) which was obtained as a white solid. MS (ESI): m/e=320.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | TMEDA | CN(C)CCN(C)C | C6H16N2
reactant | 4-fluorophenylboronic acid | 1.0 mmol, 140 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | ammonia | 2 mL | N | H3N
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 4-[1-(4-Fluoro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 34 mg, 21% | FC1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C19H14FN3O
